.title kicad schematic 
  
.lib /home/ajay/ihp/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt 
Vv4 Net-_v4-+_ GND DC 1.5 AC 1.5  
R1 Net-_v4-+_ Net-_M1-D_ 1k 
Vv5 VLO- GND DC 1 SIN( 1 -5m 2G 0 0 0 ) AC 15m 180 
XM1 Net-_M1-D_ Net-_M1-D_ GND GND sg13_lv_nmos w=2u l=0.13u 
Vv3 VLO+ GND DC 1 SIN( 1 5m 2G 0 0 0 ) AC 15m 0 
Vv2 VRF- GND DC 0.7 SIN( 0.7 -5m 0.1G 0 0 0 ) AC 50m 180 
Vv1 VRF+ GND DC 0.7 SIN( 0.7 5m 0.1G 0 0 0 ) AC 50m 0 
R3 Net-_v4-+_ VOUT- 1.4k 
XM8 VOUT- VLO+ Net-_M6-B_ Net-_M6-B_ sg13_lv_nmos w=13u l=0.13u 
XM6 VOUT+ VLO- Net-_M6-B_ Net-_M6-B_ sg13_lv_nmos w=13u l=0.13u 
XM7 Net-_M6-B_ VRF- Net-_M3-B_ Net-_M3-B_ sg13_lv_nmos w=8u l=0.13u 
R2 Net-_v4-+_ VOUT+ 1.4k 
XM4 VOUT- VLO- Net-_M2-B_ Net-_M2-B_ sg13_lv_nmos w=13u l=0.13u 
XM2 VOUT+ VLO+ Net-_M2-B_ Net-_M2-B_ sg13_lv_nmos w=13u l=0.13u 
XM5 Net-_M3-B_ Net-_M1-D_ GND GND sg13_lv_nmos w=10.1u l=0.13u 
XM3 Net-_M2-B_ VRF+ Net-_M3-B_ Net-_M3-B_ sg13_lv_nmos w=8u l=0.13u 
*.op 
*.tran 25e-12 10e-09 0e-00 
.ac dec 10 1Hz 5GHz 

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout+) - v(vout-)
plot v(vout-) 
.endc
.end
